* C:\Users\jmstr\OneDrive - The University of Auckland\University\Year 3\ELECTENG 311\311Project\Charger\Simulations\Charger_OVPOCP_Latch.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 Vover_current 0.6V 5V 0 OCP LM2903B
R6 5V OCP 10k
V2 Vover_current 0 PULSE(0 3 0.01 0 0 0.1 0.5)
V3 0.6V 0 0.6
X§U3 2.5V Vover_voltage 5V 0 OVP LM2903B
R9 5V OVP 10k
V6 Vover_voltage 0 PULSE(0 3 0.01 0 0 0.1 0.5)
V7 2.5V 0 2.5
V1 5V 0 5
* OCP
.tran 1
.include irf4905slpbf.txt
.include TLC081.mod
.include BAT85.txt
.include lm393.lib
.include irf3205.spi
.ic V(VQ1b)=0
* OVP
.backanno
.end
